US06620837B1
Preparation of 2-(3-Carboxypropoxy)-5-[3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]benzoic Acid Disodium Salt
The title compound was prepared in 98% yield from methyl 2-(3-carbomethoxypropoxy)-5-[3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]benzoate (Part A) by essentially following the procedure outlined in Example 1, Part D, (except using 2.0 equivalents of 1 N NaOH solution).

reactant | methyl 2-(3-carbomethoxypropoxy)-5-[3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]benzoate | C(=O)(OC)CCCOC1=C(C(=O)OC)C=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | C34H37NO6S
reactant | NaOH | 1 N, 2.0 equivalents | [OH-].[Na+]
product | 2-(3-Carboxypropoxy)-5-[3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophen-2-yl]benzoic Acid Disodium Salt | 98% yield | [Na+].[Na+].C(=O)(O)CCCOC1=C(C(=O)[O-])C=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2.C(=O)(O)CCCOC2=C(C(=O)[O-])C=C(C=C2)C2=C(C1=C(S2)C=CC=C1)CC1=CC=C(C=C1)OCCN1CCCC1 | InChI=1S/2C32H33NO6S.2Na/c2*34-30(35)8-5-18-39-28-14-11-23(21-27(28)32(36)37)31-26(25-6-1-2-7-29(25)40-31)20-22-9-12-24(13-10-22)38-19-17-33-15-3-4-16-33;;/h2*1-2,6-7,9-14,21H,3-5,8,15-20H2,(H,34,35)(H,36,37);;/q;;2*+1/p-2
